US07612067B2
Preparation of 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
100 mg (0.22 mmol) of 3-(2,4-Dibromo-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.22 mmol), 96 mg of morpholine (1.1 mmol) and 215 mg of Cs2CO3 (0.66 mmol) are put in a 4 ml vial with dry THF, and the vial is capped with a Teflon cap. The vial is heated at 120° C. for overnight. The reaction mixture is applied onto a silica-gel chromatography column (Hexane:AcOEt:2 M NH3 in MeOH=9:3:1) to give 72.7 mg of the title compound. Yield 71%. mass spectrum (m/e): 465 (M+1); 1H-NMR (CDCl3): 6.73 (s, 1H), 3.87 (t, 4H, J=5.1 Hz), 3.58 (t, 4H, J=5.1 Hz), 3.35 (m, 1H), 2.57 (s, 3H), 2.53 (s, 3H), 1.86 (m, 4H), 0.90 (t, 6H, J=7.5 Hz).

reactant | 3-(2,4-Dibromo-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.22 mmol, 100 mg | BrC=1SC(=C(N1)Br)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C16H18Br2N4S
reactant | morpholine | 1.1 mmol, 96 mg | N1CCOCC1 | C4H9NO
reactant | Cs2CO3 | 0.66 mmol, 215 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NH3 | 2 M | N | H3N
solvent | MeOH | CO | CH4O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | Hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
product | 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 72.7 mg, Yield 71% | BrC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26BrN5OS
